.SUBCKT irf5810 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 13, 02
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-1.04726 LAMBDA=0.101901 KP=9.467
+CGSO=5.8e-06 CGDO=1e-11
RS 8 3 0.0262422
D1 1 3 MD
.MODEL MD D IS=1.31422e-08 RS=0.0390611 N=1.5 BV=20
+IBV=0.00025 EG=1.2 XTI=1 TT=0.0001
+CJO=5.90151e-11 VJ=5 M=0.3 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.0001
RG 2 7 24.9001
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=2.92745e-10 VJ=0.5 M=0.418341 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.648478 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 6.06126e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.648478
.ENDS irf5810

*SPICE Thermal Model Subcircuit
.SUBCKT irf5810t 3 0

R_RTHERM1         2 3  9.157
R_RTHERM2         1 2  64.77
R_RTHERM3         0 1  30.78
C_CTHERM1         2 3  0.00014459
C_CTHERM2         1 2  0.00255887
C_CTHERM3         0 1  0.11669916

.ENDS irf5810t

